US04743602
A mixture of 2-(5-t-butylthiophen-2-yl)-cyclopropanecarboxylic acid (3.38 g, 0.015 mol) and oxalyl chloride (2.65 g, 0.021 mol) in hexane (35 ml) was stirred at room temperature for 2 hours and then warmed at 60° C. for 3 hours. The hexane and excess oxalyl chloride were removed in vacuo to give 2-(5-t-butylthiophen-2-yl)-cyclopropanecarbonyl chloride (3.59 g, 99%) as a pale yellow liquid which was used in the next stage without further purification.

reactant | 2-(5-t-butylthiophen-2-yl)-cyclopropanecarboxylic acid | 0.015 mol, 3.38 g | C(C)(C)(C)C1=CC=C(S1)C1C(C1)C(=O)O | C12H16O2S
reactant | oxalyl chloride | 0.021 mol, 2.65 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | hexane | 35 ml | CCCCCC | C6H14
product | 2-(5-t-butylthiophen-2-yl)-cyclopropanecarbonyl chloride | 3.59 g, 99% | C(C)(C)(C)C1=CC=C(S1)C1C(C1)C(=O)Cl | C12H15ClOS
